US04113968
4.1 Parts of the so obtained ethyl 3,3-dimethyl-4,6,6tribromo-5-hexenoate was dissolved in 35 parts of dry benzene, and 1.9 parts of sodium t-butylate was added to the solution and the mixture was agitated for 1 hour under reflux of benzene. The liquid reaction mixture was poured into ice water and extracted with diethyl ether, and ether and benzene were distilled from the organic layer. The residue was subjected to distillation under reduced pressure to obtain 3.2 parts of ethyl 2,2-dimethyl-3-(2',2'-dibromovinyl)-cyclopropane-carboxylate having a boiling point of 92° - 94° C. under 0.5 mm Hg. The yield was 98%.

reactant | ethyl 3,3-dimethyl-4,6,6tribromo-5-hexenoate | CC(CC(=O)OCC)(C(C=C(Br)Br)Br)C | C10H15Br3O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | ethyl 2,2-dimethyl-3-(2',2'-dibromovinyl)-cyclopropane-carboxylate | yield was 98% | CC1(C(C1C=C(Br)Br)C(=O)OCC)C | C10H14Br2O2
